US05665718
1 g (2.5 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one was stirred at room temperature overnight with 0.98 g (7.5 mmol) of dibutylamine and 10 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there was obtained 0.44 g (36%) of (S)-8-chloro-1-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride (amorphous).

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.5 mmol, 1 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O)F | C16H10Cl2FN5O2
reactant | dibutylamine | 7.5 mmol, 0.98 g | C(CCC)NCCCC | C8H19N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.44 g, 36% | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN(CCCC)CCCC)CC1)=O)F | C24H28ClFN6O2
